Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Headache
 
Major Surgical or Invasive Procedure:
___: Diagnostic angiogram, coiling cerebral aneurysm
___: Diagnostic angiogram

 
History of Present Illness:
Ms. ___ is a ___ year-old female presented to ___ 
___ ___ with complaints of immediate onset of 
headache. Per the patient, she was outside about to garden and 
had onset of headache accompanied by nausea/vomiting. It is 
unclear how EMS came to her house as patient does not recall. At 
___ the patient underwent imaging that 
demonstrated diffuse SAH. She was then transferred to ___ for 
further evaluation. 

 
Past Medical History:
- HLD 
- s/p lumpectomy 
- Right cataract 
 
Social History:
___
Family History:
Unknown 
 
Physical Exam:
================
ON ADMISSION:
================

Gen: WD/WN, comfortable, NAD. drowsy but interacts with staff 
HEENT: Pupils:  R pupil 2NR L pupil 2 slug       EOMs intact
Neck: Supple.
Lungs: CTA bilaterally.
Cardiac: RRR. S1/S2.
Abd: Soft, NT, BS+
Extrem: Warm and well-perfused. No C/C/E.

Neuro:
Mental status: drowsy but awakens to voice, needs multiple
attempts to keep eyes open, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Recall: ___ objects at 5 minutes.
Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested
II: R pupil 2NR L pupil 2 slug   
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to finger rub bilaterally.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch

==================
UPON DISCHARGE: 
==================
 A&Ox3, PERRL ___, ___ ___, no drift. groin c/d/i
 
Pertinent Results:
Please refer to OMR for all relevant imaging and test results 
 
Brief Hospital Course:
#Diffuse SAH / ACA aneurysm 
On ___, the patient underwent diagnostic angiogram with coiling 
of the right ACA A1 segment. She was started on a 21 day course 
of Nimodipine for prevention of vasospasm. Post angio head CT on 
___ was stable. She underwent TCDs daily to monitor for any 
signs of vasospasm. CTA on ___ was negative for vasospasm. 
TCD's on ___ and ___ were negative for vasospasm with mildly 
elevated velocities in the right MCA and left ACA. On ___, she 
underwent a repeat angiogram which demonstrated that the 
aneurysm was well coiled and there was no residual as well as no 
vasospasm. She remained neurologically intact throughout the 
remainder of her stay. She was discharged on Nimodipine to 
continue for a full 21 day course. 

#Hyponatremia  
Upon admission, the patient's serum sodium level was 132. She 
was started on hypertonic saline, and salt tabs for goal Na 
135-145. She continued to have high urine outputs and 
hyponatremia and was also started on florinef 0.1mg BID. 
Florinef and salt tabs increased on ___. On ___, she was 
started on standing daily potassium. On ___ the hypertonic 
saline drip was discontinued. Magnesium was repleted and 
potassium chloride was increased to ___ MEQ po daily. The patient 
remained off of the 3% HTS gtt as of ___ with a stable serum Na 
of 130. Her sodium levels continued to improve slowly. Florinef 
was discontinued on ___ after morning sodium resulted at 134. 
Labs on day of discharge demonstrated stability. She was 
discharged on salt tabs and with close follow up with her 
primary care provider. 

#Hypokalemia 
Throughout the patient's admission, he serum potassium levels 
were found to be low, requiring medication with potassium for 
repletion. She was started on standing daily potassium 
supplementation. Potassium chloride was increased to 60 meq po 
daily. On day of discharge patient did not require repletion. 

#Respiratory insufficiency  
While in the ICU, the patient was found to have mild hypoxia in 
the setting of being a current smoker. She was started on 
supplemental oxygen to maintain oxygen saturation of 90-95%. She 
returned to her baseline of maintaining appropriate oxygen 
saturation on room air. 
 
#Nausea/vomiting:  
The patient was started on Zofran 4mg IV q8h to manage her 
nausea. Her nausea improved, and she no longer required 
medication. 

#Urinary Tract Infection
The patient was found to have a urinary tract infection and was 
therefore started on a course of PO Ciprofloxacin from 
___. 

#C. Difficile Colitis
The patient was experiencing symptoms of diarrhea, and therefore 
she was tested for C. diff colitis. This was positive, and 
therefore she was treated with PO Flagyl from ___ to 
___.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Simvastatin 20 mg PO QPM 

 
Discharge Medications:
1.  Acetaminophen-Caff-Butalbital 1 TAB PO Q4H:PRN Headache 
RX *butalbital-acetaminophen-caff 50 mg-325 mg-40 mg 1 tablet(s) 
by mouth Q4-6H PRN headache Disp #*30 Tablet Refills:*0 
2.  MetroNIDAZOLE 500 mg PO TID Duration: 6 Days 
stop date ___ (to complete 14 day course) 
RX *metronidazole 500 mg 1 tablet(s) by mouth three times a day 
Disp #*20 Tablet Refills:*0 
3.  NiMODipine 60 mg PO Q4H 
Stop date ___ to complete 21 day course 
RX *nimodipine 30 mg 2 capsule(s) by mouth every four (4) hours 
Disp #*60 Capsule Refills:*0 
4.  Sodium Chloride 2 gm PO Q8H 
RX *sodium chloride 1 gram 2 tablet(s) by mouth every eight (8) 
hours Disp #*168 Tablet Refills:*0 
5.  Simvastatin 20 mg PO QPM  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
1) Subarachnoid hemorrhage 
2) ACA aneurysm rupture
3) Hyponatremia 
4) Hypokalemia
5) Urinary Tract Infection
6) C. Difficile Colitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions
Aneurysmal Subarachnoid Hemorrhage 

Surgery/ Procedures:
- You had a cerebral angiogram to coil the aneurysm. You may 
experience some mild tenderness and bruising at the puncture 
site (groin).

Activity
- We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
- You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
- You make take a shower. 
- No driving while taking any narcotic or sedating medication. 
- If you experienced a seizure while admitted, you must refrain 
from driving. 

Medications
- Resume your normal medications and begin new medications as 
directed.
- ***You have been discharged on a medication called Nimodipine. 
This medication is used to help prevent cerebral vasospasm 
(narrowing of blood vessels in the brain). Last day of this 
medication is ___.
- You have been discharged on oral salt tablets. This may be 
tapered by your PCP. Please see your PCP ___ 1 week to have 
your sodium level checked. 
- You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
- You are being discharged on the antibiotic flagyl for a 
Clostridium difficile infection. You should continue to take 
this medication, last day is ___. 

What You ___ Experience:
- Mild to moderate headaches that last several days to a few 
weeks.
- Difficulty with short term memory. 
- Fatigue is very normal
- Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

When to Call Your Doctor at ___ for:
- Severe pain, swelling, redness or drainage from the incision 
site or puncture site. 
- Fever greater than 101.5 degrees Fahrenheit
- Constipation
- Blood in your stool or urine
- Nausea and/or vomiting
- Extreme sleepiness and not being able to stay awake
- Severe headaches not relieved by pain relievers
- Seizures
- Any new problems with your vision or ability to speak
- Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
- Sudden numbness or weakness in the face, arm, or leg
- Sudden confusion or trouble speaking or understanding
- Sudden trouble walking, dizziness, or loss of balance or 
coordination
- Sudden severe headaches with no known reason

 
Followup Instructions:
___